US07838675B2
i) (2S,3R)-3-(Benzyloxy)-2-hydroxybutanoic acid
To a solution of (2S,3R)-2-amino-3-benzyloxy-butyric acid (1.1 g) in 2M sulfuric acid (6.31 mL) was added dropwise over 2 h a solution of sodium nitrite (0.65 g) in water (6 mL), keeping the internal temperature of the reaction below 0° C. The reaction mixture was stirred at −5° C. for 6 h then allowed to warm to room temperature overnight. The mixture was adjusted to pH 4 with 50% aqueous sodium hydroxide then ethyl acetate was added. The mixture was stirred vigorously and acidified to pH 2 with concentrated sulfuric acid. The layers were separated and the aqueous layer extracted with further ethyl acetate (×2). The combined organic extracts were washed with saturated aqueous sodium chloride, dried (MgSO4), filtered and evaporated to give the subtitle compound as a yellow crystalline solid which was used without further purification. Yield: 0.84 g.

reactant | (2S,3R)-2-amino-3-benzyloxy-butyric acid | 1.1 g | N[C@H](C(=O)O)[C@@H](C)OCC1=CC=CC=C1 | C11H15NO3
reactant | sodium nitrite | 0.65 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sulfuric acid | 2M, 6.31 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 6 mL | O | H2O
product | (2S,3R)-3-(Benzyloxy)-2-hydroxybutanoic acid | C(C1=CC=CC=C1)O[C@@H]([C@@H](C(=O)O)O)C | C11H14O4
